US05134148
Using the Grignard reaction procedure described in the portion of Example 1 which is concerned with the preparation of starting materials, 3-benzyloxybromobenzene was reacted with tetrahydropyran-4-one to give 4-(3-benzyloxyphenyl)-4-hydroxytetrahydropyran in 77% yield, m.p. 84°-86° C.

reactant | 3-benzyloxybromobenzene | C(C1=CC=CC=C1)OC=1C=C(C=CC1)Br | C13H11BrO
reactant | tetrahydropyran-4-one | O1CCC(CC1)=O | C5H8O2
product | 4-(3-benzyloxyphenyl)-4-hydroxytetrahydropyran | 77% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCOCC1)O | C18H20O3
